US09145415B2
To 10% palladium-carbon (50 mg) and ammonium formate (135 mg), a solution of tert-butyl (3,3,3-trifluoro-2-((3-nitrophenyl)amino)propyl)carbamate (C17, 100 mg) in methanol (2 mL) was added at room temperature, and the mixture was stirred at the same temperature for 3 hours. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure. To the obtained residue, ethyl acetate and water were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain tert-butyl (2-((3-aminophenyl)amino)-3,3,3-trifluoropropyl)carbamate (C18, 45 mg).

reactant | ammonium formate | 135 mg | C(=O)[O-].[NH4+]
reactant | tert-butyl (3,3,3-trifluoro-2-((3-nitrophenyl)amino)propyl)carbamate | 100 mg | FC(C(CNC(OC(C)(C)C)=O)NC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C14H18F3N3O4
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium-carbon | 50 mg | [C].[Pd]
product | tert-butyl (2-((3-aminophenyl)amino)-3,3,3-trifluoropropyl)carbamate | 45 mg | NC=1C=C(C=CC1)NC(CNC(OC(C)(C)C)=O)C(F)(F)F | C14H20F3N3O2
